US07176242B2
Methyl 3-{[(5-methoxy-2,5-dioxopentyl)amino]carbonyl}benzoate
Methyl hydrogen isophthalate (1.8 g, 10.2 mmol) is dissolved in methylene chloride (10 mL) and DMF (10 mL), and diisopropylethylamine (4.4 mL, 25.5 mmol), HATU (4.6 g, 12.2 mmol), and 5-aminolevulinic acid methyl ester hydrochloride (2 g, 11.2 mmol) are added. The reaction stirred at room temperature 1 h. The reaction is partitioned between ethyl acetate and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 4% methanol/chloroform) provides the title compound. ESI MS m/z 306.1 [M−H]−.

reactant | Methyl hydrogen isophthalate | 10.2 mmol, 1.8 g | C(C1=CC(C(=O)O)=CC=C1)(=O)OC | C9H8O4
reactant | diisopropylethylamine | 25.5 mmol, 4.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 12.2 mmol, 4.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-aminolevulinic acid methyl ester hydrochloride | 11.2 mmol, 2 g | Cl.COC(CCC(=O)CN)=O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{[(5-methoxy-2,5-dioxopentyl)amino]carbonyl}benzoate | COC(CCC(CNC(=O)C=1C=C(C(=O)OC)C=CC1)=O)=O | C15H17NO6
